US07838518B2
(A): 5-Methoxyindole-3-carboxylic acid ethyl ester
To a solution of 5-methoxyindole (10.0 g, 67.9 mmol) in anhydrous diethyl ether (200 cm3) being maintained at 0° C. under a nitrogen atmosphere was added a solution of ethyl magnesium bromide in diethyl ether (3.0 M, 22.65 cm3, 67.95 mmol) over a period of ca. 10 min. The reaction was heat to reflux for 45 min, cooled to −5° C. and ethyl chloroformate (6.5 cm3, 67.9 mmol) was added. After stirring at this temperature for 1 h, the mixture was heated to reflux for 30 min, cooled and added to ice containing sat. aqueous ammonium chloride solution (150 cm3). This mixture was extracted into ethyl acetate (150 cm3), washed with water (3×150 cm3), dried (MgSO4) and evaporated under reduced pressure to afford a brown oil (13.21 g), crystallisation from diethyl-ether/heptane afforded the title compound (4.95 g, 33%). Positive ion ESI (M+H)+ 220.0.

reactant | 5-methoxyindole | 67.9 mmol, 10.0 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | ethyl chloroformate | 67.9 mmol, 6.5 cm3 | ClC(=O)OCC | C3H5ClO2
solvent | diethyl ether | 200 cm3 | C(C)OCC | C4H10O
solvent | diethyl ether | 67.95 mmol, 3.0 M, 22.65 cm3 | C(C)OCC | C4H10O
product | 5-Methoxyindole-3-carboxylic acid ethyl ester | 4.95 g, 33% | C(C)OC(=O)C1=CNC2=CC=C(C=C12)OC | C12H13NO3
